US08053588B2
Firstly, a mixture of 4-(diallylethoxysilyl)iodobenzene (147 mg, 0.41 mmol), PdCl2(PPh3)2 (11.5 mg, 0.016 mmol) and CuI (3.1 mg, 0.016 mmol) was added with dist. THF (2 mL), dist. Et3N (3 mL) and 3,5-dimethyl-1-hexyn-3-ol (79 μL, 0.54 mmol). The resultant mixture was stirred under a nitrogen atmosphere at 50° C. for 3 hours to obtain a reaction mixture. Then, the reaction mixture was diluted with ether, and an organic layer was washed with dist. H2O and sat. NaCl. After that, the organic layer was dried with MgSO4, and the dried organic layer was then filtered and concentrated to obtain a crude product. The obtained crude product was separated and purified by silica gel column chromatography (hexane/EtOAc=5/1) to obtain 1-(diallylethoxysilyl)-4-(3,5-dimethyl-3-hydroxy-hexynyl)benzene (129.1 mg, 88% yield).

reactant | 4-(diallylethoxysilyl)iodobenzene | 0.41 mmol, 147 mg | C(C=C)C(CO[SiH2]C1=CC=C(C=C1)I)CC=C | C14H19IOSi
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | Et3N | 3 mL | CCN(CC)CC | C6H15N
reactant | 3,5-dimethyl-1-hexyn-3-ol | 0.54 mmol, 79 μL | CC(C#C)(CC(C)C)O | C8H14O
solvent | ether | CCOCC | C4H10O
catalyst | PdCl2(PPh3)2 | 0.016 mmol, 11.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.016 mmol, 3.1 mg | [Cu]I
product | 1-(diallylethoxysilyl)-4-(3,5-dimethyl-3-hydroxy-hexynyl)benzene | 129.1 mg, 88% yield | C(C=C)C(CO[SiH2]C1=CC=C(C=C1)C#CC(CC(C)C)(O)C)CC=C | C22H32O2Si
